US08110577B2
To a stirred mixture of 7-cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic acid phenylamide (2021044) (0.55 g, 1.7 mmol) in pyridine (120 mL) and piperidine (30 mL) was slowly bubbled hydrogen sulphide for 15 min. The resultant mixture was then stoppered and stirred at 50° C. for five days. The solvent was removed under reduced pressure, water (150 mL) was added to the residue, and the resultant solution was extracted with dichloromethane (3×150 mL). The crude product (1.6 g) was purified by preparative liquid chromatography to afford 2-(3-methyl-[1,2,4]thiadiazol-5-yl)-7-thiocarbamoyl heptanoic acid phenylamide (2021036) as a white solid.

reactant | 7-cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic acid phenylamide | 1.7 mmol, 0.55 g | C1(=CC=CC=C1)NC(C(CCCCCC#N)C1=NC(=NS1)C)=O | C17H20N4OS
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 30 mL | N1CCCCC1 | C5H11N
product | 2-(3-methyl-[1,2,4]thiadiazol-5-yl)-7-thiocarbamoyl heptanoic acid phenylamide | C1(=CC=CC=C1)NC(C(CCCCCC(N)=S)C1=NC(=NS1)C)=O | C17H22N4OS2
